US04350692
A solution of N-methyl-N-phenylsalicylamide (13.5 g.), ethyl bromoacetate (10 g.) and anhydrous potassium carbonate (8.4 g.) in N,N-dimethylformamide (90 ml.) was stirred at room temperature for 7 hours. The resultant mixture was added to water and extracted with diethyl ether, and the extract was washed with 10% aqueous solution of sodium hydroxide and water in turn, dried over magnesium sulfate and then evaporated under reduced pressure to give oily ethyl 2-[2-(N-methyl-N-phenylcarbamoyl)phenoxy]acetate (18.23 g.).

reactant | N-methyl-N-phenylsalicylamide | 13.5 g | CN(C(C=1C(O)=CC=CC1)=O)C1=CC=CC=C1 | C14H13NO2
reactant | ethyl bromoacetate | 10 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 8.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-(N-methyl-N-phenylcarbamoyl)phenoxy]acetate | 18.23 g | CN(C(=O)C1=C(OCC(=O)OCC)C=CC=C1)C1=CC=CC=C1 | C18H19NO4
